US07385092B2
1,2-Dodecanediol (Comparative, According to DE 197 43 015, Example 6, not According to the Invention)
168.3 g (1.0 mol) of 1-dodecene and 73.6 g (1.6 mol) of formic acid were mixed. This mixture was heated to 100° C. and then 115.7 g (1.7 mol) of 50% strength hydrogen peroxide solution were added dropwise over a period of 2 hours. The mixture was then stirred at 100° C. for 45 min. 64.1 g (2 mol) of methanol and 0.1 g of concentrated sulfuric acid were added, and the mixture was heated under reflux for 30 min and then the methyl formate, methanol and water were removed by distillation under atmospheric pressure. A >99% pure main fraction was isolated after the subsequent workup by distillation. The freshly distilled target product had an unpleasant, pungent odor.

reactant | 1-dodecene | 1.0 mol, 168.3 g | C=CCCCCCCCCCC | C12H24
reactant | formic acid | 1.6 mol, 73.6 g | C(=O)O | CH2O2
reactant | hydrogen peroxide | OO | H2O2
reactant | methanol | 2 mol, 64.1 g | CO | CH4O
reactant | sulfuric acid | 0.1 g | S(O)(O)(=O)=O | H2O4S
product | 1,2-Dodecanediol | C(C(CCCCCCCCCC)O)O | C12H26O2
